US08026257B2
(±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol.
5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde (0.88 g, 2.83 mmol) was dissolved in tetrahydrofuran (10 mL), cooled to −78° C. and treated with methylmagnesium bromide (3.0 M in diethyl ether, 0.9 mL, 2.83 mmol) over several minutes. After 1 h, cooling was removed and stirring continued for 1 h at room temperature. The reaction was cooled to 0° C., treated with saturated ammonium chloride and diluted with ethyl acetate. The layers were separated. The organic layer was washed with water (2×), brine (2×), dried over sodium sulfate, filtered and concentrated. Flash chromatography on silica gel (30% ethyl acetate/hexanes) afforded 540 mg (58%) as a light brown oil. 1H-NMR (CDCl3, 300 MHz) δ 8.00 (s, 1H), 8.21 (s, 1H), 7.50 (d, J=1.8 Hz, 1H), 7.13 (m, 1H), 5.65 (s, 2H), 5.28 (q, J=6.2 Hz, 1H), 3.57-3.62 (m, 2H), 1.64 (d, J=6.2 Hz, 3H), 0.86-0.92 (m, 2H), 0.07 (s, 9H). Mass spec.: 327.04 (MH)+.

reactant | 5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde | 2.83 mmol, 0.88 g | ClC1=CC2=CN(N=C2C(=C1)C=O)COCC[Si](C)(C)C | C14H19ClN2O2Si
reactant | methylmagnesium bromide | 2.83 mmol, 3.0 M, 0.9 mL | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | ClC1=CC2=CN(N=C2C(=C1)C(C)O)COCC[Si](C)(C)C | C15H23ClN2O2Si
